US06384233B1
5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoic acid (300 g, 840 mmol) and ethanol (3 L) were placed in a flask. Concentrated H2SO4 (2.4 mL, 86.4 meq.) was added with stirring. The reaction was then heated to reflux. After approximately 30 minutes, the suspension dissolved. The reaction was monitored by TLC (silica gel; hexane:ethylacetate:methanol;70:20:10). After refluxing for 9 hours, all starting material was gone and 2 liters of ethanol was removed by distillation. The remaining solution was cooled with stirring to 0° C. and seeded with known ethyl-5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoate. The resulting suspension was stirred at 0° C. for 30 minutes and then filtered, washed with cold ethanol (100 mL) and vacuum dried (room temperature, ca. 5 mm Hg) to give ethyl-5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoate (275.0 g, 85% yield) as a clean white powder (mp=80-81° C.). An additional 27.9 g of ethyl-5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoate was obtained as a tan powder after reducing the volume of the mother liquor to approximately 100 mL and seeding with known ethyl-5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoate.

reactant | 5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoic acid | 840 mmol, 300 g | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)CCC(=O)O | C19H17ClN2O3
reactant | ethanol | 3 L | C(C)O | C2H6O
reactant | H2SO4 | 2.4 mL, 86.4 meq. | OS(=O)(=O)O | H2O4S
reactant | hexane | CCCCCC | C6H14
solvent | methanol | CO | CH4O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | ethyl-5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoate | 275.0 g, 85% yield | C(C)OC(CCC1=NN(C(=C1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)OC)=O | C21H21ClN2O3
